US09359381B2
Step 6: (7S)-Methyl 1,3-dimethyl-10-(5-methylfuran-2-yl)-2,4-dioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylate
Gold (III) chloride (0.142 g, 0.469 mmol) was added to a solution of (7S)-methyl 10-hydroxy-1,3-dimethyl-2,4-dioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylate (1.8 g, 4.69 mmol) and 2-methylfuran (0.466 mL, 5.16 mmol) in acetonitrile (30 mL). The mixture was stirred at room temperature for 25 mins, then quenched with saturated NaHCO3(aq). The mixture was extracted with DCM, the organic phase passed through a hydrophobic frit and evaporated under vacuum.

reactant | (7S)-methyl 10-hydroxy-1,3-dimethyl-2,4-dioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylate | 4.69 mmol, 1.8 g | OC1CC[C@H](N2C(=C3C(=C12)N(C(N(C3=O)C)=O)C)C3=CC=CC=C3)C(=O)OC | C20H21N3O5
reactant | 2-methylfuran | 5.16 mmol, 0.466 mL | CC=1OC=CC1 | C5H6O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
catalyst | Gold (III) chloride | 0.469 mmol, 0.142 g | [Au](Cl)(Cl)Cl
product | (7S)-Methyl 1,3-dimethyl-10-(5-methylfuran-2-yl)-2,4-dioxo-5-phenyl-1,2,3,4,7,8,9,10-octahydropyrimido[4,5-a]indolizine-7-carboxylate | CN1C(N(C(C=2C1=C1C(CC[C@H](N1C2C2=CC=CC=C2)C(=O)OC)C=2OC(=CC2)C)=O)C)=O | C25H25N3O5
